US04125731
To a solution of indane (240 g) in dry ether (1 l) was slowly added, with stirring under a nitrogen atmosphere, 2.2 M solution (1 l) of n-butyllithium in n-hexane at -40° C over an hour. After 15 minutes, to this solution was added chloromethyl methyl ether (170 g) in dry ether (150 ml) under nitrogen at -55° C over 30 minutes. After stirring for another 30 minutes, water (1 l) was added with efficient stirring. The ether layer was separated, the aqueous phase extracted with ether (100 ml) twice, and the combined ether extract was washed with brine and dried over MgSO4. The ether was evaporated and the residual oily substance was distilled to give 1-methoxymethyl indene as yellow oil. (b.p. 50° C/0.2 mmHg, 258 g yield 78%)

reactant | indane | 240 g | C1CCC2=CC=CC=C12 | C9H10
reactant | n-butyllithium | C(CCC)[Li]
reactant | chloromethyl methyl ether | 170 g | COCCl | C2H5ClO
reactant | water | 1 l | O | H2O
solvent | ether | 1 l | CCOCC | C4H10O
solvent | n-hexane | CCCCCC | C6H14
solvent | ether | 150 ml | CCOCC | C4H10O
product | 1-methoxymethyl indene | yield 78% | COCC1C=CC2=CC=CC=C12 | C11H12O
